US08859580B2
[(2R,6S)-3-Benzyl-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-10-yl]-methanol
A solution of (2R,6S)-3-benzyl-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo-[d]azocine-10-carboxylic acid ethyl ester (0.96 g) in tetrahydrofuran (2 mL) is added dropwise to LiAlH4 (1.6 mL, 2.4 mol/L in THF) in tetrahydrofuran (1.5 mL). The reaction mixture is stirred at ambient temperature for 90 min. Then, water (4 mL) is added carefully and the resulting mixture is extracted with ethyl acetate. The combined organic extracts are washed with water and brine and dried (MgSO4). The solvent is removed under reduced pressure to give the product.

reactant | (2R,6S)-3-benzyl-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo-[d]azocine-10-carboxylic acid ethyl ester | 0.96 g | C(C)OC(=O)C1=CC=CC2=C1C[C@H]1N(CC[C@@]2(C1(C)C)C)CC1=CC=CC=C1 | C25H31NO2
reactant | LiAlH4 | 2.4 mol/L, 1.6 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 4 mL | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | [(2R,6S)-3-Benzyl-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-10-yl]-methanol | C(C1=CC=CC=C1)N1[C@@H]2CC3=C([C@](CC1)(C2(C)C)C)C=CC=C3CO | C23H29NO
